US08008307B2
Step a: 1-(4-bromo-1-naphthyl)pyrrolidine
To a solution of 1,4-dibromonaphthalene (500 mg, 0.002 mol), Pyrrolidine (0.18 mL, 0.0021 mol), (R)-(+)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (0.022 g, 0.000035 mol), Sodium tert-butoxide (0.24 g, 0.0024 mol) in Toluene (5.00 mL, 0.0469 mol) was added Tris(dibenzylideneacetone)dipalladium(0) (0.008 g, 0.000009 mol), and the mixture was heated at 70° C. overnight. The reaction was cooled, quenched by addition of water and the mixture was extracted with DCM (3×), washed with water, brine, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0 to 25% hexanes/DCM) to obtain 400 mg (80%). Reference: Jean, L.; Rouden, J.; Maddaluno, J.; Lasne, M-C. J. Org. Chem. 2004, 69, 8893-8902.

reactant | 1,4-dibromonaphthalene | 0.002 mol, 500 mg | BrC1=CC=C(C2=CC=CC=C12)Br | C10H6Br2
reactant | Pyrrolidine | 0.0021 mol, 0.18 mL | N1CCCC1 | C4H9N
reactant | (R)-(+)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.000035 mol, 0.022 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | Sodium tert-butoxide | 0.0024 mol, 0.24 g | CC(C)([O-])C.[Na+]
reactant | Toluene | 0.0469 mol, 5.00 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.000009 mol, 0.008 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(4-bromo-1-naphthyl)pyrrolidine | BrC1=CC=C(C2=CC=CC=C12)N1CCCC1 | C14H14BrN
